US04098898
N-Cyano-N'-methoxy-N"-[2-((4-methyl-5-imidazolyl)methylthio)-ethyl]guanidine
A solution of methoxamine (7.0 g), prepared from the hydrochloride and potassium hydroxide in methanol (50 ml) and water (10 ml) was added to a solution of dimethylcyanodithioimidocarbonate (7.3 g) in methanol (40 ml) and stirred at room temperature for 60 hours. A solution of 4-methyl-5-[(2-aminoethyl)thiomethyl]imidazole (8.6 g) in methanol (30 ml) was added and the resulting solution was heated under reflux for 18 hours. Concentration followed by chromatographic purification on a column of silica gel with chloroform-methanol (10:1) as eluant and final recrystallisation from acetonitrile afforded the title compounds m.p. 155°-6°. (Found: C, 45.0; H, 5.9; N, 31.3; S, 11.9% C10H16N6OS requires: C, 44.8; H, 6.0; N, 31.3; S, 11.9%).

reactant | methoxamine | 7.0 g | CC(C(C=1C=C(C=CC1OC)OC)O)N | C11H17NO3
reactant | hydrochloride | Cl | ClH
reactant | potassium hydroxide | [OH-].[K+]
reactant | dimethylcyanodithioimidocarbonate | 7.3 g | CSC(SC)=NC#N | C4H6N2S2
reactant | 4-methyl-5-[(2-aminoethyl)thiomethyl]imidazole | 8.6 g | CC=1N=CNC1CSCCN | C7H13N3S
reactant | methanol | 50 ml | CO | CH4O
reactant | methanol | 40 ml | CO | CH4O
reactant | methanol | 30 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | N-Cyano-N'-methoxy-N"-[2-((4-methyl-5-imidazolyl)methylthio)-ethyl]guanidine | C(#N)NC(=NCCSCC1=C(N=CN1)C)NOC | C10H16N6OS
